US08710223B2
To a solution of 2-cyclopropyl-4-fluoro-5-nitrobenzenamine (as described in WO2011068898) (1.98 g, 10.09 mmol, 1 equiv) in dichloromethane (50 mL) at room temperature, was added NaHCO3 (7.65 g, 90.84 mmol, 9 equiv), followed by 2-methylpropanoyl chloride (6.34 mL, 60.56 mmol, 6 equiv). The reaction mixture was stirred overnight. The reaction mixture was taken in water, and the layers were separated. The organic layer was washed with ice-cold 1N NaOH 2×, brine 1×, dried over Na2SO4, and concentrated to dryness. The crude product was absorbed onto silica gel and purified by flash chromatography and eluted with hex:EtOAc=100:0 to 50%-70% EtOAc using 10% EtOAc increments to afford N-(2-cyclopropyl-4-fluoro-5-nitrophenyl)isobutyramide (2.04 g, 84%) as a light-brown solid.

reactant | 2-cyclopropyl-4-fluoro-5-nitrobenzenamine | 10.09 mmol, 1.98 g, 1 equiv | C1(CC1)C1=C(C=C(C(=C1)F)[N+](=O)[O-])N | C9H9FN2O2
reactant | NaHCO3 | 90.84 mmol, 7.65 g, 9 equiv | C(=O)(O)[O-].[Na+]
reactant | 2-methylpropanoyl chloride | 60.56 mmol, 6.34 mL, 6 equiv | CC(C(=O)Cl)C | C4H7ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(2-cyclopropyl-4-fluoro-5-nitrophenyl)isobutyramide | 2.04 g, 84% | C1(CC1)C1=C(C=C(C(=C1)F)[N+](=O)[O-])NC(C(C)C)=O | C13H15FN2O3
